US06900215B2
3-Bromothiophene-2-carbonitrile was reacted with bis(pinacolato)diboron as described in Example 1 to give 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)thiophene-2-carbonitrile. This was coupled with 3-bromo-2,4-difluorophenylamine as outlined in Example 67 to give 3-(3-amino-2,6-difluorophenyl)thiophene-2-carbonitrile as an orange solid (3.00 g, 59%): δH (360 MHz, CDCl3) 3.71 (2H, s), 6.84 (1H, q, J 3), 6.86 (1H, s), 7.21-7.23 (1H, m), 7.64 (1H, d, J 5).

reactant | 3-Bromothiophene-2-carbonitrile | BrC1=C(SC=C1)C#N | C5H2BrNS
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)thiophene-2-carbonitrile | CC1(OB(OC1(C)C)C1=C(SC=C1)C#N)C | C11H14BNO2S
